US08497278B2
2-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (119)
The title compound was prepared according to Method B and the experimentals described for compound 91 from 3-(chloromethyl)-2-(4-chlorophenyl)imidazo[1,2-a]pyridine hydrochloride and [1,2,4]triazolo[4,3-a]pyridin-3(2H)-one. M/e+ 376 for C20H15 ClN5O (M+H)+; 1H-NMR (400 MHz, CDCl3) δ 8.68 (d, J=6.9 Hz, 1H), 8.18 (d, J=8.4 Hz, 2H), 7.80 (d, J=7.3 Hz, 1H), 7.63 (d, J=9.1 Hz, 1H), 7.50 (d, J=8.4 Hz, 2H), 7.25 (m, 1H), 7.09 (dd, J=4.0, 2.9 Hz, 2H), 6.89 (m, 1H), 6.52 (m, 1H), 5.54 (s, 2H) ppm.

reactant | 3-(chloromethyl)-2-(4-chlorophenyl)imidazo[1,2-a]pyridine hydrochloride | Cl.ClCC1=C(N=C2N1C=CC=C2)C2=CC=C(C=C2)Cl
reactant | [1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | N=1NC(N2C1C=CC=C2)=O | C6H5N3O
product | 2-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | ClC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1CN1N=C2N(C=CC=C2)C1=O | C20H14ClN5O
